US09428452B2
Methyl 2-bromo-5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)benzoate
To a solution of 4-ethyl-N-isobutylaniline (400 mg, 2.256 mmol) in pyridine (2 mL) stirred in air at 20° C. was added methyl 2-bromo-5-(chlorosulfonyl)benzoate (707 mg, 2.256 mmol) portionwise, over 30 minutes. The reaction mixture was stirred at 20° C. for 30 minutes, then left to stand overnight. The solvent was evaporated in vacuo to give the crude product as a sticky yellow solid. This was triturated with methanol and filtered and dried to give the desired product as a white solid, 600 mg. LCMS [LCMS1] Rt 1.41 min, m/z (ES+) 454/456 (M+H).

reactant | 4-ethyl-N-isobutylaniline | 2.256 mmol, 400 mg | C(C)C1=CC=C(NCC(C)C)C=C1 | C12H19N
reactant | methyl 2-bromo-5-(chlorosulfonyl)benzoate | 2.256 mmol, 707 mg | BrC1=C(C(=O)OC)C=C(C=C1)S(=O)(=O)Cl | C8H6BrClO4S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 2-bromo-5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)benzoate | BrC1=C(C(=O)OC)C=C(C=C1)S(N(CC(C)C)C1=CC=C(C=C1)CC)(=O)=O | C20H24BrNO4S
